Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
amoxicillin / Bactrim
 
Attending: ___
 
Chief Complaint:
Right facial parasthesias.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old F w/ PMH of DMII and b/l breast CA s/p 
XRT in ___ and b/l lumpectomy on Evista who presents with 
new R facial parasthesias.

Pt reports that upon waking at 6am morning of presentation she 
noticed that she felt unstable on her feet as she stood up and 
attempted to walk to room. Denied clear directional leaning, 
lightheadedness, dizziness, or vertiginous symptoms. No 
associated falls. She also noted that her vision was blurry 
(like a "haze") but no diplopia or ocular pain. This latter 
symptom lasted for 1 minute before self-resolving and since that 
time has transiently presented for this duration of time almost 
every half hour. States it may be triggered/worsened when she 
stands up.

Upon arrival to bathroom, pt touched the R side of her face and 
noticed it "felt like Novacaine". She found this numbness to 
include R check, R side of tongue, and R side of neck. Denies 
associated pain, burning or tingling, although endorses tingles 
to touch. No weakness in R face or hemibody. This sensory 
phenomenon has persisted since initial onset and has been stable 
in nature with no clear progression. Due to these various sx, 
she presented OSH ED (___) for evaluation. There, NCHCT 
was performed which showed "small vessel leukoencephalopathy". 
Pt was evaluated by Neurology and recommended for transfer to 
___ for MR imaging and further evaluation. While at ___, pt 
noted that her ambulation felt better but other sx persisting as 
reported. Denies recent f/c or infectious sx. No hx of similar 
sx in past, strokes, or TIAs. No recent sick contacts. Of note, 
pt has been stressed recently over her brother being diagnosed 
with pancreatic CA.

Neurologic and General ROS negative except as noted above

 
Past Medical History:
DMII
Breast CA
Asthma                                 

 
Social History:
___
Family History:
Mother had diabetes and hypertension.  Father had diabetes.  No 
history of coronary artery disease or cancer.
               
 
Physical Exam:
General: Awake, cooperative, in mild distress, overweight AA 
female.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses 
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to person, place, and date. Able 
to relate history without difficulty. Attentive, able to name 
___ backward without difficulty. Language is fluent with intact 
repetition and comprehension. Normal prosody. There were no 
paraphasic errors. Pt was able to name both high and low 
frequency objects. Speech was not dysarthric. Able to follow 
both midline and appendicular commands. There was no evidence of 
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1mm and brisk. EOMI with upbeating 
nystagmus on upgaze, initially persistent. After recheck, seen 
to extinguish after ___ beats. Associated with upgaze pt 
endorsed vertical diplopia (false image on top) that 
extinguished with covering L eye but not R eye (pt mentioned 
this issue may be chronic and is having her glasses adjusted to 
address). VFF to confrontation. Visual acuity ___ in L eye, 
___ in R eye. 
V: Decreased sensation to LT over R V1 (70%), V2 (50%), and V3 
(0%). to PP over V2-V3 (50%). Intact proprioception over V2, 
inconsistent over V3. No midline split.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___- 5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   0
R  2  2    2    1   0
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Romberg negative. Veering to R on ambulation. Able to 
sit on side of bed without sway.

Discharge:

Physical Exam:
General: Awake, cooperative, overweight AA female.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to person, place, and date. Able
to relate history without difficulty. Attentive, able to name 
___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  Pupils are symmetric and reactive to light.
Upside down ptosis on the right with a decreased right palpebral
fissure.  Eye movements reveal a horizontal fast frequency left
beating nystagmus.   VFF to confrontation. Visual acuity ___ 
in
L eye, ___ in R eye.  
V: Decreased sensation to LT over R V1, V2 and V3. 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___- 5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Gait is cautious and there is some tendency to stagger to
the right, especially with turns. 

 
Pertinent Results:
Labs
___ 06:47AM BLOOD WBC-7.2 RBC-4.54 Hgb-12.0 Hct-37.5 MCV-83 
MCH-26.4 MCHC-32.0 RDW-14.2 RDWSD-42.5 Plt ___
___ 06:47AM BLOOD Glucose-121* UreaN-11 Creat-0.6 Na-143 
K-4.1 Cl-103 HCO3-24 AnGap-16
___ 06:05AM BLOOD Calcium-9.3 Phos-4.5 Mg-1.9
___ 06:47AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Stroke Labs
___ 06:47AM BLOOD %HbA1c-6.8* eAG-148*
___ 06:47AM BLOOD Triglyc-78 HDL-44 CHOL/HD-3.3 LDLcalc-83
___ 06:47AM BLOOD TSH-3.1

MRI brain  
1. Left midbrain and pontine punctate acute infarcts as 
described above. 
2. There is a third punctate area of suspected acute ischemia in 
the left 
occipital lobe. 
3. Confluent periventricular and deep white matter T2 and FLAIR 
hyperintense 
changes are nonspecific.  In the differential diagnosis consider 

microangiopathy, demyelination, infection/inflammatory or 
medication/chemotherapy. 
4. No significant ICA stenosis by NASCET criteria. 
5. No intracranial arterial aneurysms, occlusion or significant 
stenosis. 

ECHO
The left atrium is normal in size. No left atrial mass/thrombus 
seen (best excluded by transesophageal echocardiography). No 
atrial septal defect or patent foramen ovale is seen by 2D, 
color Doppler or saline contrast with maneuvers (image quality 
for saline contrast was poor). Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). No masses or thrombi are seen in the left 
ventricle. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. No masses or vegetations are seen on the 
aortic valve. The mitral valve leaflets are mildly thickened. 
There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is an anterior space which most likely 
represents a prominent fat pad. 

IMPRESSION: No intracardiac thrombus identified. Aggitated 
saline contrast study with limited image quality, but no 
evdience of significant interatrial shunt. 

 
Brief Hospital Course:
___ woman with a history of diabetes as well as 
bilateral breast cancer status post radiation and lumpectomy and 
now likely in remission who presents with new onset of facial 
paresthesias, gait unsteadiness and visual difficulties. MRI 
here showed three different areas of infarction (left midbrain 
and pontine and left occipital lobe). Patient was started on 
aspirin and atorvastatin. An echo was done that did not show any 
intracardiac thrombus or significant interatrial shunt. She was 
evaluated by physical therapy, and they recommended outpatient 
___. Her work-up included LDL 83, TSH 3.1, HbA1c 6.8.

Transitional issues:
[]Follow up with her PCP ___ for diabetes 
management (HbA1c 6.8).
[]Follow up appointment with neurologist Dr. ___ at ___. 
[]Schedule the appointment for ___ of Hearts monitor 
(instructions attached) 
[]Schedule outpatient physical therapy (order attached)

New Medications:
[] Aspirin 81mg
[] Atorvastatin 40 mg

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed () No 
2. DVT Prophylaxis administered? (X) Yes - () No 
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - (X) No 
4. LDL documented? (X) Yes (LDL = 83) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (X) Yes - () No [if LDL 
>70, reason not given: 
[ ] Statin medication allergy 
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
[ ] LDL-c less than 70 mg/dL 
] 
6. Smoking cessation counseling given? (X) Yes - () No [reason 
() non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes - () No 
9. Discharged on statin therapy? (X) Yes - () No [if LDL >70, 
reason not given: 
[ ] Statin medication allergy 
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
[ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (X) No - () N/A 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. raloxifene 60 mg oral DAILY 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
3.  MetFORMIN (Glucophage) 500 mg PO BID  
4.  Multivitamins 1 TAB PO DAILY  
5.  raloxifene 60 mg oral DAILY  
6.Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Ischemic Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
You were hospitalized due to symptoms of facial numbness and 
visual difficulties resulting from an ACUTE ISCHEMIC STROKE, a  
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your  
body that controls and directs all the other parts of your body, 
 so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms. 
 
Stroke can have many different causes, so we assessed you for  
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
-Diabetes
-High cholesterol

We are changing your medications as follows:  
 Start Aspirin 81mg daily to decrease your risk of having 
strokes
 Atorvastatin 40 mg to decrease your cholesterol and decrease 
your  risk of having strokes

You will also need to be on a monitor called ___ of Hearts" to 
look for an abnormal heart rhythm called atrial fibrillation. We 
will give you the order to schedule this exam. If you are found 
to have this, you will need treatment. We are also giving you a 
prescription for outpatient physical therapy. 
  
Please take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician  
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body 
 
Sincerely,  

Your ___ Neurology Team  

 
Followup Instructions:
___